US04022607
To a cooled (ice/water) solution of 8.9 g. of 2-methylthio-4-phenyl-thiazole pre-dissolved in 90 ml. of methylene chloride is added in portions over 5 minutes, 8.7 g. of m-chloro-peroxybenzoic acid. Examination by TLC after 90 minutes indicates the presence of essentially all of the sulfinyl compound (reaction complete) with a faint trace of sulfone and an even fainter trace of remaining thiazole starting material. The precipitated m-chloro-benzoic acid is filtered off and the methylene chloride solution is washed successively with a 10% solution of sodium sulfite and with saturated sodium bicarbonate solution, dried, evaporated in vacuo to dryness and the residue further dried overnight in vacuo, to yield 2-methylsulfinyl-4-phenyl-thiazole, m.p. 104°-105° C.

reactant | 2-methylthio-4-phenyl-thiazole | CSC=1SC=C(N1)C1=CC=CC=C1 | C10H9NS2
reactant | m-chloro-peroxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | thiazole | S1C=NC=C1 | C3H3NS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methylsulfinyl-4-phenyl-thiazole | CS(=O)C=1SC=C(N1)C1=CC=CC=C1 | C10H9NOS2
